US07432260B2
3-Bromo-N-{5-[2-(4-fluoro-phenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-propionamide [20].
A solution of [4-(2-amino-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-(4-fluoro-phenyl)-amine (0.3 g, 1.0 mmol) in DMF (2 mL) was cooled on an ice bath and was treated with 2-bromopropionyl chloride (0.17 g, 1.0 mmol). After completion of the addition, the reaction mixture was allowed to stir at room temperature for 18 h. It was poured into ice water and was extracted with CH2Cl2. The organics were combined, washed with brine, dried on MgSO4, and the solvent was evaporated to leave a brown residue. This was purified by SiO2 chromatography (1:1 EtOAc/PE) to afford the title compound as a light yellow solid. Anal. RP-HPLC: tR=17.1 min (0-60% MeCN in 0.1% aq CF3COOH over 20 min, 1 mL/min, purity>93%). 1H-NMR (DMSO-d6) δ: 1.99 (m, 2H, CH2), 2.68 (s, 3H, CH3), 4.65 (m, 2H, CH2), 7.02 (d, 1H, J=5.2 Hz, pyrimidinyl-H), 7.11 (m, 2H, Ph-H), 7.62 (m, 2H, Ph-H), 8.19 (d, 1H, J=5.5 Hz, pyrimidinyl-H).

reactant | [4-(2-amino-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-(4-fluoro-phenyl)-amine | 1.0 mmol, 0.3 g | NC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)F | C14H12FN5S
reactant | 2-bromopropionyl chloride | 1.0 mmol, 0.17 g | BrC(C(=O)Cl)C | C3H4BrClO
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-Bromo-N-{5-[2-(4-fluoro-phenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-propionamide | BrCCC(=O)NC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)F | C17H15BrFN5OS
